US04668406
In a one liter, 3-neck flask fitted with a mechanical stirrer, thermometer, condenser, gas inlet tube, addition funnel and electric heating mantle was placed 164 g (0.34 mole) "Desmondur" N-100 biuret triisocyanate, and 109 g ethyl acetate and 4 drops stannous octoate. The mixture was heated to 82° C. and stirred under a slow N2 stream while slowly adding over a period of 3 hours a solution of 319 g (0.55 mole) N-ethyl(perfluorooctane)sulfonamidoethyl alcohol in 212 g ethyl acetate and containing 3 drops of stannous octoate. Heating (82° C.) and stirring was continued for a period of 3 hours to yield mainly a fluorochemical biuret urethane isocyanate intermediate, (C8F17SO2N(C2H5)C2H4OCONHCO--2NC6H12NCO or more simply (Rf --Q--A--2B--A--NCO, and smaller amounts of B--A--Q--Rf)3 and (OCN--A--2B--A--Q--Rf with B, A, Q and Rf as defined above.

reactant | biuret triisocyanate | [N-]=C=O.[N-]=C=O.[N-]=C=O.NC(=O)NC(=O)N
catalyst | stannous octoate | 4 drops | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | ethyl acetate | 212 g | C(C)(=O)OCC | C4H8O2
catalyst | stannous octoate | 3 drops | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | ethyl acetate | 109 g | C(C)(=O)OCC | C4H8O2
product | biuret urethane isocyanate | [N-]=C=O.NC(=O)OCC.NC(=O)NC(=O)N | InChI=1S/C3H7NO2.C2H5N3O2.CNO/c1-2-6-3(4)5;3-1(6)5-2(4)7;2-1-3/h2H2,1H3,(H2,4,5);(H5,3,4,5,6,7);/q;;-1
